US05329042
(3S, 4R)-3-carboxy-4-methylcyclopentanone
1.18 g of (3S, 4R)-3-methoxycarbonyl-4-methylcyclopentanone was added to 20 ml of 3N-hydrochloric acid, and the mixture was refluxed for 2 hours. The resultant mixture was cooled down to room temperature, and concentrated to dryness. The residue was purified by distillation under a reduced pressure, and thus 0.858 g of the titled compound was obtained.

reactant | (3S, 4R)-3-methoxycarbonyl-4-methylcyclopentanone | 1.18 g | COC(=O)[C@H]1CC(C[C@H]1C)=O | C8H12O3
reactant | hydrochloric acid | Cl | ClH
product | (3S, 4R)-3-carboxy-4-methylcyclopentanone | 0.858 g | C(=O)(O)[C@H]1CC(C[C@H]1C)=O | C7H10O3
